US05441955
Isatoic anhydrides were prepared from 2-aminobenzoic acid derivatives using the following procedure. A solution of 2-amino-5-chlorobenzoic acid (1.56 g, 9.7 mmol) in 25 mL of dry THF and triphosgene (1.00 g, 3.3 mmol) was stirred at room temperature for 18 h. The resultant solid was filtered, washed with cold acetone, and dried under vacuum to give 1.56 g (89%) of 5-chloroisatoic anhydride.

reactant | 2-aminobenzoic acid | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | 2-amino-5-chlorobenzoic acid | 9.7 mmol, 1.56 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | triphosgene | 3.3 mmol, 1.00 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-chloroisatoic anhydride | 1.56 g, 89% | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
